US08426598B2
To a mixture of 4-fluorobenzonitrile (2.49 g, 20.6 mmol) and 4-formylpyrazole (1.98 g, 20.6 mmo) in 50 mL of DMF at 0° C. was added 95% sodium hydride (0.54 g, 22.7 mmol) under nitrogen. The mixture was heated to 60° C. for 6 hours and cooled to room temperature. Water was added carefully and the mixture was then extracted with ethyl acetate. The combined extracts were washed with water and brine, and then dried over sodium sulfate, filtered, and concentrated in vacuo to provide crude 4-(4-formyl-1H-pyrazol-1-yl)benzonitrile.

reactant | 4-fluorobenzonitrile | 20.6 mmol, 2.49 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | 4-formylpyrazole | 1.98 g | C(=O)C=1C=NNC1 | C4H4N2O
reactant | sodium hydride | 22.7 mmol, 0.54 g | [H-].[Na+]
reactant | Water | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 4-(4-formyl-1H-pyrazol-1-yl)benzonitrile | C(=O)C=1C=NN(C1)C1=CC=C(C#N)C=C1 | C11H7N3O
